US07435815B2
2-[(6-Dimethylamino-pyridine-3-sulfonyl)-p-tolyl-amino]-N-ethyl-N-pyridin-2-ylmethyl-acetamide
prepared by reaction of 6-dimethylamino-pyridine-3-sulfonyl chloride with N-ethyl-N-pyridin-2-ylmethyl-2-p-tolylamino-acetamide

reactant | 6-dimethylamino-pyridine-3-sulfonyl chloride | CN(C1=CC=C(C=N1)S(=O)(=O)Cl)C | C7H9ClN2O2S
reactant | N-ethyl-N-pyridin-2-ylmethyl-2-p-tolylamino-acetamide | C(C)N(C(CNC1=CC=C(C=C1)C)=O)CC1=NC=CC=C1 | C17H21N3O
product | 2-[(6-Dimethylamino-pyridine-3-sulfonyl)-p-tolyl-amino]-N-ethyl-N-pyridin-2-ylmethyl-acetamide | CN(C1=CC=C(C=N1)S(=O)(=O)N(CC(=O)N(CC1=NC=CC=C1)CC)C1=CC=C(C=C1)C)C | C24H29N5O3S
